US05089499
Using the procedure described in Example 10, p-[N-(3,4-dihydro-3-pivaloyloxymethyl-4-oxoquinazolin-6-ylmethyl)-N-(prop-2-ynyl)amino]benzoic acid was reacted with 3-nitrobenzylamine to give p-[N-(3,4-dihydro-4-oxoquinazolin-6-ylmethyl)-N-(prop-2-ynyl)amino]-N-(3-nitrobenzyl)benzamide (containing 1 equivalent of water, 56%), m.p. 197°-199° C.

reactant | p-[N-(3,4-dihydro-3-pivaloyloxymethyl-4-oxoquinazolin-6-ylmethyl)-N-(prop-2-ynyl)amino]benzoic acid | C(C(C)(C)C)(=O)OCN1C=NC2=CC=C(C=C2C1=O)CN(CC#C)C1=CC=C(C(=O)O)C=C1 | C25H25N3O5
reactant | 3-nitrobenzylamine | [N+](=O)([O-])C=1C=C(CN)C=CC1 | C7H8N2O2
product | p-[N-(3,4-dihydro-4-oxoquinazolin-6-ylmethyl)-N-(prop-2-ynyl)amino]-N-(3-nitrobenzyl)benzamide | 1 equivalent, 56% | O=C1NC=NC2=CC=C(C=C12)CN(CC#C)C1=CC=C(C(=O)NCC2=CC(=CC=C2)[N+](=O)[O-])C=C1 | C26H21N5O4
